US06326375B1
(3) Preparation of 4-hydroxymethylspiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′-one
A solution of 4-methylenespiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3-one (196 mg) in anhydrous tetrahydrofuran (5.0 mL) was cooled to 0° C., to which borane-dimethyl sulfide complex (2M tetrahydrofuran solution, 690 μL) was added and the mixture was stirred at that temperature for 1.5 hours, then additional 20 minutes together with aqueous 2M sodium hydroxide (5.0 mL) and aqueous 30% hydroperoxide (5.0 mL). The reaction mixture was diluted with water, extracted with ethyl acetate, washed with saturated saline solution, then dried over anhydrous Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give the subject compound (190 mg) as diastereomers.

reactant | 4-methylenespiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3-one | 196 mg | C=C1C(CC2(OCC3=CC=CC=C23)CC1)=O | C14H14O2
reactant | borane-dimethyl sulfide | 2M, 690 μL | CSC.B
reactant | sodium hydroxide | 2M, 5.0 mL | [OH-].[Na+]
reactant | hydroperoxide | 5.0 mL | [O-]O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-hydroxymethylspiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′-one | 190 mg | OCC1CCC2(OC(C3=CC=CC=C23)=O)CC1 | C14H16O3
